US06384041B1
A suspension of 211 mg (0.541 mmol) of [[2-(methylthio)-6-ethyl-7-[(3-fluorophenyl)methyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid methyl ester in 20 mL of ethanol was treated with 1.27 g of Raney Ni and heated to reflux. After 24 hours, the solids were removed by filtration through a filter aid and the reaction concentrated to provide 140 mg (75%) of [[6-ethyl-7-[(3-fluorophenyl)methyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid methyl ester as a solid. nmr (300 MHz, CDCl3) δ1.20 (t, 3H), 2.62 (q, 2H), 3.79 (s, 3H), 5.09 (s, 2H), 5.45 (s, 2H), 6.42 (s, 1H), 6.72 (d, 1H), 6.82 (d, 1H), 6.93 (dt, 1H), 7.26 (dt, 1H), 8.37 (s, 1H)

reactant | [[2-(methylthio)-6-ethyl-7-[(3-fluorophenyl)methyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid methyl ester | 0.541 mmol, 211 mg | COC(COC=1C2=C(N=C(N1)SC)N(C(=C2)CC)CC2=CC(=CC=C2)F)=O | C19H20FN3O3S
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | Ni | [Ni] | Ni
product | [[6-ethyl-7-[(3-fluorophenyl)methyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid methyl ester | 140 mg, 75% | COC(COC=1C2=C(N=CN1)N(C(=C2)CC)CC2=CC(=CC=C2)F)=O | C18H18FN3O3
